US07312225B2
1f) 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-2-hydroxy-propyl]-benzenesulfonamide
A solution of 258 mg (0.553 mmol) of N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-2-hydroxy-propyl]-3-nitro-benzenesulfonamide in 20 ml of tetrahydrofuran is mixed under argon at room temperature with 2.6 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid. After 2 hours, the reaction solution is mixed again with 0.2 ml of Ti(III)Cl solution and stirred for another 60 minutes. The batch is made basic with 1 M NaOH solution and then filtered. The filter cake is rewashed 2× with 50 ml of ethyl acetate/MeOH (30 ml/20 ml) in each case. The filtrate is concentrated by evaporation in a rotary evaporator and then extracted with ethyl acetate (2×). The combined organic phases are washed with NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (dichloromethane/MeOH 95:5, Flashmaster II). 155 mg (0.36 mmol, corresponding to 64% of theory) of the product is obtained.

reactant | N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-2-hydroxy-propyl]-3-nitro-benzenesulfonamide | 0.553 mmol, 258 mg | BrC=1C(=NC(=NC1)Cl)NCC(CNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])O | C13H13BrClN5O5S
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-2-hydroxy-propyl]-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCC(CNC1=NC(=NC=C1Br)Cl)O | C13H15BrClN5O3S
